US05756528
Step A: N-t-Butoxycarbonyl-4(R)-benzyloxyproline naphth-1-ylmethylamide
The title compound was prepared using the procedure in Example 1 step H using N-t-butoxycarbonyl-4(R)-benzyloxyproline and naphth-1-ylmethylamine.

reactant | N-t-butoxycarbonyl-4(R)-benzyloxyproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)OCC1=CC=CC=C1 | C17H23NO5
reactant | naphth-1-ylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | N-t-Butoxycarbonyl-4(R)-benzyloxyproline naphth-1-ylmethylamide | C1(=CC=CC2=CC=CC=C12)CNC([C@H]1N(C[C@@H](C1)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C28H32N2O4
